US08211897B2
To tert-butyl-(3S)-1-(cyclopropylamino)-1-oxohexan-3-ylcarbamate (75 mg, 0.26 mmol) was added 4.0 M HCl in dioxane (6.0 mL). After 1 hour, the reaction mixture was concentrated and dried to give the (3S)-3-amino-N-cyclopropyl-2-hydroxyhexanamide HCl salt as a white solid. To this salt in dichloromethane/N,N-dimethylformamide (10:3, 13 mL) was added (2S,4R)-1-(tert-butoxycarbonyl)-4-(6-ethoxyisoquinolin-1-yloxy)-pyrrolidine-2-carboxylic acid (106 mgs, 0.26 mmol), O (7 azabenzotriazol 1 yl) 1,1,3,3 tetramethyl-uronium hexafluorophosphate (HATU) (119 mg, 0.31 mmol) and diisopropylethylamine (0.15 mL, 0.78 mmol). After 1 hour at room temperature reaction mixture was diluted with ethyl acetate and washed with 1N HCl (2×), sodium bicarbonate (1×), and brine (1×). The ethyl acetate layer was dried over magnesium sulfate, filtered and evaporated to dryness under reduced pressure to give (2S,4R)-1-(tert-butyl-2-((3S)-1-cyclopropylamino)-2-hydroxy-1-oxohexan-3-ylcarbamoyl)-4-(6-ethoxyisoquinolin-1-yloxy)pyrrolidine-1-carboxylate.

reactant | tert-butyl-(3S)-1-(cyclopropylamino)-1-oxohexan-3-ylcarbamate | 0.26 mmol, 75 mg | C(C)(C)(C)OC(N[C@H](CC(=O)NC1CC1)CCC)=O | C14H26N2O3
reactant | HCl | 4.0 M | Cl | ClH
reactant | dioxane | 6.0 mL | O1CCOCC1 | C4H8O2
product | (3S)-3-amino-N-cyclopropyl-2-hydroxyhexanamide HCl salt | Cl.N[C@H](C(C(=O)NC1CC1)O)CCC | InChI=1S/C9H18N2O2.ClH/c1-2-3-7(10)8(12)9(13)11-6-4-5-6;/h6-8,12H,2-5,10H2,1H3,(H,11,13);1H/t7-,8?;/m0./s1
